US08022062B2
6-Hydroxymethyl-benzo[1,2,3]thiadiazole:
Add sodium borohydride (1.35 g, 36 mmol) in five portions over 4 h to a solution of benzo[1,2,3]thiadiazole-6-carboxylic acid methyl ester (0.35 g, 1.8 mmol, prepared by following the procedure described in J. Heterocyclic Chem. 1972, 1149) in methanol (18 mL) at 0° C. Add acetone to quench and evaporate the mixture onto silica gel. Purify the residue by chromatography on silica gel eluting with hexane/EtOAc (1:0 to 2:3 gradient) to give the desired intermediate (133 mg, 45%). MS (GCMS) m/z: 166 M+.

reactant | sodium borohydride | 36 mmol, 1.35 g | [BH4-].[Na+]
reactant | benzo[1,2,3]thiadiazole-6-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N=NS2)C=C1 | C8H6N2O2S
solvent | methanol | 18 mL | CO | CH4O
product | 6-Hydroxymethyl-benzo[1,2,3]thiadiazole | 133 mg, 45% | OCC1=CC2=C(N=NS2)C=C1 | C7H6N2OS
